data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5268,5973,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N+:25]([CH3:26])=[C:27]([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[N:25]([CH3:26])[C:27]2([c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[c:34]1[cH:35][cH:36][cH:37][cH:38][cH:39]1,water,298.15,50.8534473174301,15.457012162456689
957,1040,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[O+:20]=[CH:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:21]([C:22]#[N:23])[O:20][C:17]3([C:15]([NH:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,10.076915720040256,-65.7508912065515
603,663,[CH3:11][O:12][C:13](=[O:14])[C-:15]([N+:16]#[C:17][C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23].[N:1]#[C:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[N:1]#[C:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:17]([C:18]([CH3:19])=[O:20])=[N:16][C:15]1([C:13]([O:12][CH3:11])=[O:14])[C:21]([CH3:22])=[O:23],water,298.15,21.64288035966445,-48.53624654446016
3873,4432,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])=[N:15][C:16]1([CH3:17])[C:18]([CH3:19])=[O:20],water,298.15,17.576009403867452,-31.123465259476827
4880,5564,[CH3:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:19]([CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[N:17]([CH3:18])[C:13]1([C:11]([CH3:10])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,49.08560337807879,6.853931461384603
2507,2786,[CH3:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[C:33]([CH3:34])=[O:35].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:18]([C:16]([CH3:15])=[O:17])([C:33]([CH3:34])=[O:35])[O:19][C:20]3([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,22.63542937642749,-42.67836270923779
4925,5610,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16]#[N+:17][C-:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[N:17]=[C:16]2[CH3:15],water,298.15,10.568277091296054,-22.359027778754893
1913,2121,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[NH:29][CH3:30].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]12[CH:4]([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:27](=[O:28])[NH:29][CH3:30])[NH:15][C:16]2([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,12.154756995101176,-29.34657558371314
4244,4854,[CH3:10][O:11][C:12](=[O:13])[C-:14]([O+:15]=[CH:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[O:15][CH:16]1[C:17]#[N:18],water,298.15,6.740829498657964,-46.35315069251165
2192,2430,[CH3:17][O:18][C:19](=[O:20])[C-:21]([O+:22]=[C:23]([C:24]#[N:25])[C:26]#[N:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH2:13][CH2:14][CH:15]1[CH2:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH2:13][CH2:14][CH:15]1[CH2:16]3)[C:23]([C:24]#[N:25])([C:26]#[N:27])[O:22][C:21]2([C:19]([O:18][CH3:17])=[O:20])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,16.18783527292177,-17.565527992754483
3143,3545,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[O:5]=[c:6]1[o:7][n:8][o+:9][c-:10]1-[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:10]2([c:11]3[cH:12][cH:13][cH:14][cH:15][cH:16]3)[C:6](=[O:5])[O:7][N:8]1[O:9]2,water,298.15,16.843328694953573,-19.4762196713907
